US04910191
A solution of 3.5 g of 19-hydroxyprogesterone and 0.25 g of 4-dimethylaminopyridine in 8 ml of pyridine is treated with 4 ml of acetic anhydride and stirred for 18 hours at room temperature. The solution is chilled to 0° C. and treated with 4 ml of methanol to consume excess acetic anhydride. After stirring for 15 minutes, the solution is concentrated to a small volume at reduced pressure and the residue is taken up in ether. The ether solution is washed three times with dilute hydrochloric acid, once with sodium bicarbonate solution and finally with brine. Drying and concentration gives 19-acetoxypregn-4-ene-3,20-dione which is obtained as a colorless solid upon crystallization from aqueous ethanol.

reactant | 19-hydroxyprogesterone | 3.5 g | CC(=O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@]34CO)C | C21H30O3
reactant | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | 4 ml | CO | CH4O
catalyst | 4-dimethylaminopyridine | 0.25 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 19-acetoxypregn-4-ene-3,20-dione | C(C)(=O)OC[C@]12CCC(C=C1CC[C@H]1[C@@H]3CC[C@H](C(C)=O)[C@]3(CC[C@H]21)C)=O | C23H32O4
